Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left acetabular fracture
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ male with history of developmental delay,
reported seizure disorder who presents to the emergency
department with a left hip pain after a reported mechanical 
fall.
This ___ have been in the context of a recent seizure.  The
patient was initially brought to an outside hospital where 
trauma
work-up revealed a complex left acetabular fracture for which he
was transferred to ___ for definitive management.  Notably the
patient is a poor historian.  He states that he ambulates 
however
he reports that he holds his knees in a fixed flexed position at
greater than 90 degrees.  He states that he is occasionally able
to walk with a walker.  He currently lives in a group home.
 
Past Medical History:
Mental delay
Seizure disorder  
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Vitals: AFVSS
General: A&Ox3, NAD
Heart: Regular rate and rhythm peripherally
Lungs: Breathing comfortably on room air. 
 
 Left lower extremity:
- Skin intact
- Soft, non-tender thigh and lower leg
- patient holding left knee flexed, externally rotated. Knee 
NTTP, pain with hip ROM
- ___ fire
- 

- 1+ ___ pulses, foot warm and well perfused

 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a left acetabular fracture and was admitted to the 
orthopedic surgery service. The fracture appeared old given the 
callus formation seen on the CT scan. The patient was treated 
nonoperatively and worked with physical therapy who determined 
that discharge to home was appropriate. The patient was given 
anticoagulation per routine, and the patient's home medications 
were continued throughout this hospitalization. The ___ 
hospital course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, and the patient was voiding/moving bowels 
spontaneously. The patient is touch down weight bearing in the 
left lower extremity, and will be discharged on lovenox for DVT 
prophylaxis. The patient will follow up with Dr. ___ 
routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course 
including reasons to call the office or return to the hospital, 
and all questions were answered. The patient was also given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge.

The patient was also seen by the neurology team. Please see 
below for their assessment and recommendations. 

NEUROLOGY FINAL/SIGN OFF NOTE 
Date: ___
Time: 1500
Consult Question: breakthrough seizures 

Interval History: 
-No acute events overnight. No seizures.
-s/p interval CT head w/ and w/o contrast done this morning,
revealed findings consistent with right-sided
hemi-megalencephaly.

Subjective/ROS: He denies any concerns and wishes to be left
alone. Due to intellectual disability, unable to obtain from
patient due to cognitive delay. 

Medications: 
--------------- --------------- --------------- ---------------
Active Inpatient Medication list as of ___ at 1529:

Medications - Standing
Sodium Chloride 0.9%  Flush ___ mL IV Q8H and PRN, line flush
Acetaminophen 1000 mg PO Q8H
Docusate Sodium 100 mg PO BID
Senna 8.6 mg PO BID
Enoxaparin Sodium 40 mg SC DAILY
LevETIRAcetam 1500 mg PO BID
Loratadine 10 mg PO DAILY
Phenytoin Infatab 100 mg PO/NG BID
Phenytoin Infatab 200 mg PO/NG QHS
Ferrous Sulfate 325 mg PO/NG EVERY OTHER DAY
Vitamin D 200 UNIT PO/NG DAILY
LACOSamide 100 mg PO/NG BID

Medications - PRN
OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain
Ondansetron 4 mg PO/NG Q8H:PRN Nausea/Vomiting - First Line
--------------- --------------- --------------- ---------------

Exam:
Vitals: 
24 HR Data (last updated ___ @ 833)
    Temp: 97.6 (Tm 98.8), BP: 108/66 (108-143/66-77), HR: 95
(95-104), RR: 17 (___), O2 sat: 94% (94-99), O2 delivery: Ra   


Gen: awake, alert, comfortable, in no acute distress
HEENT: normocephalic atraumatic, frequent hiccups, no
oropharyngeal lesions 
CV: warm, well perfused
Pulm: breathing non labored on room air
Extremities: no cyanosis/clubbing or edema

Neurologic:
-MS: Awake, alert. Oriented to self. Answers simple questions
appropriately and can follow some simple cmmands. ___ word 
output
in response to questions (baseline per caregiver). No evidence 
of
hemineglect. 
-CN: Gaze congjugate, Pupils 3mm bilaterally; unable to assess
pupillary response due to pt resistance, EOMI no nystagmus, face
symmetric, palate elevates symmetrically, tongue midline
-Motor: normal bulk and tone. Unable to do focal motor testing
given mental status. Moves b/l UE, RLE briskly antigravity and
against resistance. No pronator drift. LLE is held in flexion 
and
moves in plane of bed; pt declines further movement ___ pain 
even
with passive ROM. 
-Sensory: withdraws to tickle in bilateral UE and ___
-Coordination: finger nose finger intact, no dysmetria
-Gait: deferred 

Labs: see OMR

Imaging/Studies:
CT Head w/o contrast
IMPRESSION: 
1. No intracranial hemorrhage.  No calvarial fracture. 
2. Hypodensity within the right frontal lobe spanning 47 mm with
adjacent expansion of the brain, incompletely characterized on
the current exam.  MRI with and without contrast is recommended
for further evaluation. 
3. The bilateral cerebral hemispheres are asymmetric in size,
larger on the right with associated thinning of the right sided
calvarium.  Given the reported history of seizure disorder and
developmental delay, findings ___ be related to underlying brain
parenchymal malformation/polymacrogyria. 
  

CT head w/ and w/o contrast
IMPRESSION:  
1.  Findings consistent with right-sided hemi-megalencephaly. 
2.  No definite acute findings, no further follow up unless
strongly clinically suspected. 

===================================

ASSESSMENT: ___ year old man with history of childhood epilepsy
and significant developmental delay, who presented to ___ with
a fall and multiple unwitnessed seizures, found to have an
acetabular fracture. His neurologic exam is at baseline per the
collateral I have obtained from his caretaker (see above),
without any new focal deficits. He has baseline intellectual
disability and left sided weakness.  Imaging has revealed
findings consistent with right-sided hemi-megalencephaly, which
is congenital. No evidence of acute findings.

Overall, etiology for his breakthrough seizures is likely due to
missed AED doses, in setting of missing Keppra for 2 days.
Reassuringly he appears to be at his baseline since resuming all
AEDs. 

RECOMMENDATIONS:
- Continue home AEDs as ordered: Vimpat 100mg BID, Keppra 1500mg
BID, Dilantin 100mg qAM/200mg qPM 
-  Patient has follow up set up with outpatient neurologist:
___ at 4:15pm with ___ MD ___  

We will sign off at this time. Please contact us if there are
questions or concerns through the neurology West Consult pager 
at
___. 

Recommendations were communicated to the primary team.

Case discussed with Dr. ___ Attending 

___, MD
___, Neurology
___

 

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Loratadine 10 mg PO DAILY 
2. Tamsulosin 0.4 mg PO QHS 
3. LevETIRAcetam 1500 mg PO BID 
4. Calcium Carbonate 500 mg PO QID:PRN reflux 
5. Phenytoin Infatab 100 mg PO QAM 
6. Phenytoin Infatab 200 mg PO QHS 
7. Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
8. Vitamin D 200 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  Enoxaparin Sodium 40 mg SC DAILY  
4.  LACOSamide 100 mg PO BID  
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain 
don't drink or drive while taking 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4h prn Disp #*20 
Tablet Refills:*0 
6.  Senna 8.6 mg PO BID  
7.  Calcium Carbonate 500 mg PO QID:PRN reflux  
8.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY  
9.  LevETIRAcetam 1500 mg PO BID  
10.  Loratadine 10 mg PO DAILY  
11.  Phenytoin Infatab 100 mg PO QAM  
12.  Phenytoin Infatab 200 mg PO QHS  
13.  Tamsulosin 0.4 mg PO QHS  
14.  Vitamin D 200 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
left acetabular fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Touch Down Weight bearing

MEDICATIONS:
  1)  Take Tylenol ___ every 6 hours around the clock. This is 
an over the counter medication.
  2)  Add  Oxycodone as needed for increased pain. Aim to wean 
off this medication in 1 week or sooner.  This is an example on 
how to wean down:
Take 1 tablet every 3 hours as needed x 1 day,
then 1 tablet every 4 hours as needed x 1 day,
then 1 tablet every 6 hours as needed x 1 day,
then 1 tablet every 8 hours as needed x 2 days, 
then 1 tablet every 12 hours as needed x 1 day,
then 1 tablet every before bedtime as needed x 1 day.  
Then continue with Tylenol for pain.
  3)  Do not stop the Tylenol until you are off of the narcotic 
medication.
  4)  Per state regulations, we are limited in the amount of 
narcotics we can prescribe. If you require more, you must 
contact the office to set up an appointment because we cannot 
refill this type of pain medication over the phone. 
  5)  Narcotic pain relievers can cause constipation, so you 
should drink eight 8oz glasses of water daily and continue 
following the bowel regimen as stated on your medication 
prescription list. These meds (senna, colace, miralax) are over 
the counter and ___ be obtained at any pharmacy.
  6)  Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
  7)  Please take all medications as prescribed by your 
physicians at discharge.
  8)  Continue all home medications unless specifically 
instructed to stop by your surgeon.
      
ANTICOAGULATION:
- Please take lovenox 40mg subcutaneous daily for 4 weeks

Physical Therapy:
Activity:   Activity:  Activity as tolerated
 Left lower extremity:  touch down weight bearing
Encourage turn, cough and deep breathe q2h when awake

Treatments Frequency:
Call your surgeon's office with any questions.
 
Followup Instructions:
___